US08426449B2
Step 1: (3-{4-Bromo-2-[((S)-1-methyl-2-phenyl-ethylamino)-methyl]-phenoxy}-phenyl)-acetic acid methyl ester
Prepared according to the procedure described in Example 2, Step 3, using the following starting materials: [3-(4-bromo-2-formyl-phenoxy)-phenyl]-acetic acid methyl ester and D-amphetamine sulfate.

reactant | [3-(4-bromo-2-formyl-phenoxy)-phenyl]-acetic acid methyl ester | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)Br)C=O)=O | C16H13BrO4
reactant | D-amphetamine sulfate | C[C@@H](CC1=CC=CC=C1)N.C[C@@H](CC1=CC=CC=C1)N.OS(=O)(=O)O
product | (3-{4-Bromo-2-[((S)-1-methyl-2-phenyl-ethylamino)-methyl]-phenoxy}-phenyl)-acetic acid methyl ester | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)Br)CN[C@H](CC1=CC=CC=C1)C)=O | C25H26BrNO3
